US04011321
Preparation of 6-[3-Amino-4-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone
6-[4-(3-t-Butylamino-2-hydroxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone was reduced over 10% palladium on charcoal with excess hydrazine hydrate in ethanol to give the title compound.

reactant | 6-[4-(3-t-Butylamino-2-hydroxypropoxy)-3-nitrophenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C=1CCC(NN1)=O)[N+](=O)[O-])O | C17H24N4O5
reactant | hydrazine hydrate | O.NN
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6-[3-Amino-4-(3-t-butylamino-2-hydroxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | NC=1C=C(C=CC1OCC(CNC(C)(C)C)O)C=1CCC(NN1)=O | C17H26N4O3
